* File: NAND.pex.netlist
* Created: Tue May 24 14:03:57 2016
* Program "Calibre xRC"
* Version "v2012.2_26.20"
* 
.include "NAND.pex.netlist.pex"
.subckt nand  F X Y GND VDD
* 
* VDD	VDD
* GND	GND
* Y	Y
* X	X
* F	F
Mn1 N_F_Mn1_d N_X_Mn1_g N_E_Mn1_s N_GND_Mn1_b N_18 L=1.8e-07 W=5e-07 AD=2.45e-13
+ AS=1.275e-13 PD=1.48e-06 PS=5.1e-07
Mn2 N_E_Mn2_d N_Y_Mn2_g N_GND_Mn2_s N_GND_Mn1_b N_18 L=1.8e-07 W=5e-07
+ AD=1.275e-13 AS=2.45e-13 PD=5.1e-07 PS=1.48e-06
Mp1 N_F_Mp1_d N_X_Mp1_g N_VDD_Mp1_s N_VDD_Mp1_b P_18 L=1.8e-07 W=1e-06
+ AD=2.55e-13 AS=4.9e-13 PD=5.1e-07 PS=1.98e-06
Mp2 N_F_Mp2_d N_Y_Mp2_g N_VDD_Mp2_s N_VDD_Mp1_b P_18 L=1.8e-07 W=1e-06
+ AD=2.55e-13 AS=4.9e-13 PD=5.1e-07 PS=1.98e-06
*
.include "NAND.pex.netlist.NAND.pxi"
*
.ends
*
*
